data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1ccc(F)cc1)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(F)cc1)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(F)cc1)C(C)C", "products": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2ccc(F)cc2)O1"}, {"reactants": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2ccc(F)cc2)O1", "products": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2ccc(F)cc2)O1"}, {"reactants": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2ccc(F)cc2)O1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2ccc(F)cc2)O1"}, {"reactants": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2ccc(F)cc2)O1", "products": "CC(C)C1CC(CC=O)[Si](c2ccccc2)(c2ccc(F)cc2)O1.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "CC1(C)C2CCC1(C)C(O)(c1cc(F)ccc1Cl)C(=O)C2.[H+]", "products": "CC1(C)C2CCC1(C)C([OH2+])(c1cc(F)ccc1Cl)C(=O)C2"}, {"reactants": "CC1(C)C2CCC1(C)C([OH2+])(c1cc(F)ccc1Cl)C(=O)C2", "products": "CC12CCC(CC(=O)[C+]1c1cc(F)ccc1Cl)C2(C)C.O"}, {"reactants": "CC12CCC(CC(=O)[C+]1c1cc(F)ccc1Cl)C2(C)C", "products": "C[C+]1C2(c3cc(F)ccc3Cl)CCC(CC2=O)C1(C)C"}, {"reactants": "C[C+]1C2(c3cc(F)ccc3Cl)CCC(CC2=O)C1(C)C", "products": "CC1=C(c2cc(F)ccc2Cl)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2cc(F)ccc2Cl)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2cc(F)ccc2Cl)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2cc(F)ccc2Cl)CCC(C(=O)[OH2+])C1(C)C", "products": "C[C+]1C(c2cc(F)ccc2Cl)CCC(C(=O)O)C1(C)C"}, {"reactants": "C[C+]1C(c2cc(F)ccc2Cl)CCC(C(=O)O)C1(C)C", "products": "CC1(C)C2CCC(c3cc(F)ccc3Cl)C1(C)[OH+]C2=O"}, {"reactants": "CC1(C)C2CCC(c3cc(F)ccc3Cl)C1(C)[OH+]C2=O", "products": "CC1(C)C2CCC(c3cc(F)ccc3Cl)C1(C)OC2=O.[H+]"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c1cc([Si](C)(C)CC)c([Si](C)(C)C)c2OC", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(OC)c([Si](C)(C)C)c([Si](C)(C)CC)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(OC)c([Si](C)(C)C)c([Si](C)(C)CC)cc1=C", "products": "CC[Si](C)(C)c1cc2c(c(OC)c1[Si](C)(C)C)[C@H]1CC[C@]3(C)C(=O)CC[C@H]3[C@@H]1CC2"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "CN(C(=O)C1=CCCC1)c1c(F)cc(F)cc1Br.[Pd]", "products": "CN(C(=O)C1=CCCC1)c1c(F)cc(F)c[c]1[Pd][Br]"}, {"reactants": "CN(C(=O)C1=CCCC1)c1c(F)cc(F)c[c]1[Pd][Br]", "products": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2c(F)cc(F)cc21"}, {"reactants": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2c(F)cc(F)cc21", "products": "CN1C(=O)C2(C=CCC2)c2c(F)cc(F)cc21.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)C)c([Si](C)(C)C)c(C)c21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)C)c(C)c1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)C)c(C)c1=C", "products": "Cc1c2c(cc([Si](C)(C)C)c1[Si](C)(C)C)[C@H]1CC[C@]3(C)C(=O)CC[C@H]3[C@@H]1CC2"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "Cc1ccc(S(=O)(=O)OC2C3OC(F)C(Cl)(O3)C(OS(=O)(=O)c3ccc(C)cc3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2=CC3OC(F)C(Cl)(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2=CC3OC(F)C(Cl)(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3OC(F)C2(Cl)O3)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3OC(F)C2(Cl)O3)cc1", "products": "O=C1C2C3OC(F)C(Cl)(O3)C12"}, {"reactants": "O=C1C2C3OC(F)C(Cl)(O3)C12.[O-]C", "products": "COC1([O-])C2C3OC(F)C(Cl)(O3)C21"}, {"reactants": "COC1([O-])C2C3OC(F)C(Cl)(O3)C21.CO", "products": "COC(=O)C1CC2(Cl)OC1OC2F"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "CC(C)c1ccc(Br)c(N(C)C(=O)C2=CCCC2)c1.[Pd]", "products": "CC(C)c1cc[c]([Pd][Br])c(N(C)C(=O)C2=CCCC2)c1"}, {"reactants": "CC(C)c1cc[c]([Pd][Br])c(N(C)C(=O)C2=CCCC2)c1", "products": "CC(C)c1ccc2c(c1)C1(CCC[CH]1[Pd][Br])C(=O)N2C"}, {"reactants": "CC(C)c1ccc2c(c1)C1(CCC[CH]1[Pd][Br])C(=O)N2C", "products": "CC(C)c1ccc2c(c1)C1(C=CCC1)C(=O)N2C.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
